US07365078B2
Synthesis of [4-(4-bromo-2,6-dimethyl-phenyl)-6-methyl-1-(1-propyl-butyl)-1H-1,5,7b-triaza-cyclopenta[cd]inden-2-ylidene]-urea (compound 1-013)
To a solution of triphosgene (1.82 g) in chloroform (9 mL) was added dropwise a solution of 4-(4-bromo-2,6-dimethyl-phenyl)-6-methyl-1-(1-propyl-butyl)-1H-1,5,7b-triaza-cyclopenta[cd]inden-2-ylideneamine hydrochloride (300 mg) synthesized by the same procedure as in example 1 and N,N-diisopropylethylamine (174 mg) in chloroform (3 mL) in an ice-cooling bath and stirred at room temperature for 1 hour. The reaction mixture was added dropwise into 25% an aqueous NH3 solution (10 mL) in an ice-cooling bath and stirred at room temperature for 2 hours. The reaction mixture was poured into H2O and extracted with chloroform. The organic layer was washed with brine, dried over anhydrous sodium sulfate and filtered. The filtrate was concentrated under reduced pressure and the residue was purified by a silica gel column chromatography (silica gel: Wako Gel (C200), eluent: hexane/ethyl acetate=1:1) to give a solid. The solid was washed with diisopropylether and the title compound (42 mg) was obtained.

reactant | triphosgene | 1.82 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | 4-(4-bromo-2,6-dimethyl-phenyl)-6-methyl-1-(1-propyl-butyl)-1H-1,5,7b-triaza-cyclopenta[cd]inden-2-ylideneamine hydrochloride | 300 mg | Cl.BrC1=CC(=C(C(=C1)C)C=1C=C2C(N(C3=CC(=NC1N23)C)C(CCC)CCC)=N)C
reactant | N,N-diisopropylethylamine | 174 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | NH3 | 10 mL | N | H3N
solvent | chloroform | 9 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 3 mL | C(Cl)(Cl)Cl | CHCl3
solvent | H2O | O | H2O
product | [4-(4-bromo-2,6-dimethyl-phenyl)-6-methyl-1-(1-propyl-butyl)-1H-1,5,7b-triaza-cyclopenta[cd]inden-2-ylidene]-urea | 42 mg | BrC1=CC(=C(C(=C1)C)C=1C=C2C(N(C3=CC(=NC1N23)C)C(CCC)CCC)=NC(=O)N)C | C25H30BrN5O
